US06878713B2
Ammonium acetate (33 g) was added to the stirred solution of 1-carbethoxy-3-ethyl-4-piperidinone (8.2 g, 41 mmol) in methanol (125 ml) and stirring was continued for 3 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (2.5 g, 39 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 6 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 3˜4) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1 M sodium hydroxide solution (pH˜10) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish crude 4-amino-1-carbethoxy-3-ethylpiperidine, which was used as such in the next step. 4-Amino-1-carbethoxy-3-ethylpiperidine was suspended in 5 M NaOH solution (36 ml), stirred at 120° C. for 120 hr, cooled, extracted with ethyl acetate, dried (Na2SO4) and concentrated to dryness to afford 4-amino-3-ethylpiperidine. Yield 3.1 g (59.6%), C7H16N2, m/z 129 (M+1).

reactant | 4-Amino-1-carbethoxy-3-ethylpiperidine | NC1C(CN(CC1)C(=O)OCC)CC | C10H20N2O2
solvent | NaOH | 5 M, 36 ml | [OH-].[Na+]
product | 4-amino-3-ethylpiperidine | NC1C(CNCC1)CC | C7H16N2
